US05922871
4-(2,3-Dihydroxypropyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine
By the same procedure as described in the example 23, synthesis was carried out starting with 1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine and using 3-bromo-1,2-propanediol. Then, the product was recrystallized using isopropanol and isopropyl ether to give the desired compound.

reactant | 1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)N2CCNCC2)C=C1 | C24H32N6O2
reactant | 3-bromo-1,2-propanediol | BrCC(CO)O | C3H7BrO2
product | 4-(2,3-Dihydroxypropyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | Yield: 71% | OC(CN1CCN(CC1)C(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O)CO | C27H38N6O4
